US09388190B2
TFA (4 mL) was added dropwise to a solution of containing (R)-2-tert-butyl 8-methyl 1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2,8(1H)-dicarboxylate (2.0 g, 4.4 mmol) in DCM (20 mL) at rt over 2 min. The mixture was stirred at rt for 3 h. TLC showed the starting material was consumed completely. The solvent was removed in vacuo at 30° C., and then DCM (10 mL) was added. The mixture was neutralized with sat. aq. NaHCO3 to pH=7. The mixture was extracted with DCM (3×20 mL) and the combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated under vacuum to afford (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (1.5 g, 96.4% yield) as a white solid. LC-MS m/z 351.9 [M+H]+, 374.0 [M+Na]+. 1H NMR (CDCl3 300 MHz): δ 8.15 (s, 1H), 8.07 (s, 1H), 4.26-4.05 (m, 3H), 3.97 (s, 3H), 3.63-3.50 (m, 1H), 3.44 (s, 3H), 3.32-3.16 (m, 1H), 2.85-2.66 (m, 1H), 1.16 (d, J=6.9 Hz, 3H), 0.88 (d, J=6.6 Hz, 3H).

reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-2-tert-butyl 8-methyl 1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 4.4 mmol, 2.0 g | C(C)(C)[C@@H]1C=2N(CCN1C(=O)OC(C)(C)C)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C21H29N3O6S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 1.5 g, 96.4% yield | C(C)(C)[C@@H]1C=2N(CCN1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C16H21N3O4S
